// Generated for: spectre
// Generated on: Nov  8 15:32:54 2016
// Design library name: AgingBib
// Design cell name: tb_and2
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters p5vonly=0 phires=0
include "model/nmos.scs"
include "model/pmos.scs"

V0 (vdd! 0) vsource dc=0.0 type=dc

VInput1   (A            0)    vsource type=pulse val0=0 val1=1.1 delay=0 rise=1ps fall=1ps width=20us period=40us
VInput2   (B            0)    vsource type=pulse val0=0 val1=1.1 delay=0 rise=1ps fall=1ps width=20us period=40us

C0 (Y 0) capacitor c=10.0f


// Library name: AgingBib
// Cell name: AND2
// View name: schematic
subckt AND2 A B Z 0 vdd!
    M0A (net29 A net34 0) nch w=1.0u l=45n
    M0B (net34 B 0 0) nch w=1.0u l=45n
    M0Z (Z net29 0 0) nch w=1.0u l=45n
    M1B (net29 B vdd! vdd!) pch w=2.0u l=45n
    M1A (net29 A vdd! vdd!) pch w=2.0u l=45n
    M1A (Z net29 vdd! vdd!) pch w=2.0u l=45n
ends AND2
// End of subcircuit definition.



// Library name: AgingBib
// Cell name: tb_and2
// View name: schematic
I0 (A B Y 0 vdd!) AND2


simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=0 \
    tnom=70 scalem=1.0 scale=1.0 gmin=1e-12 rforce=0.1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 ckptclock=1800 rawfmt=psfxl method=trap \
    sensfile="../psf/sens.output"
tran tran stop=90us write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 compression=no
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
saveOptions options save=lvlpub nestlvl=1 

*relxpert: age 0h
*relxpert: deltad 0.1
*relxpert: agemethod agemos
*relxpert: degsort
*relxpert: report_model_param
*relxpert: vthmethod spice
**relxpert: agelevel_only [level=101]
**relxpert: new_bo0_format
